US08227458B2
trans-8-Chloro-1-(4-phen oxy-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzoazulene-5-sulfonic acid dimethylamide
To a solution of trans-8-chloro-1-(4-phenoxy-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzoazulene hydrochloride (0.062 g, 0.14 mmol) and triethylamine (0.030 ml, 0.22 mmol) in dichloromethane (2.5 ml) was added N,N-dimethylsulfamoyl chloride (0.023 ml, 0.22 mmol) at room temperature. After stirring for 72 h the reaction mixture was transferred directly onto a silica gel chromatography column. Elution with n-heptane/ethyl acetate gave the title compound (0.042 g, 58%) as white solid. MS m/e: 502 (M+H+).

reactant | trans-8-chloro-1-(4-phenoxy-cyclohexyl)-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzoazulene hydrochloride | 0.14 mmol, 0.062 g | Cl.ClC=1C=CC2=C(CNCC3=NN=C(N23)[C@@H]2CC[C@H](CC2)OC2=CC=CC=C2)C1
reactant | triethylamine | 0.22 mmol, 0.030 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylsulfamoyl chloride | 0.22 mmol, 0.023 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
product | trans-8-Chloro-1-(4-phen oxy-cyclohexyl)-4H,6H-2,3,5,10b-tetraaza-benzoazulene-5-sulfonic acid dimethylamide | 0.042 g, 58% | CN(S(=O)(=O)N1CC2=NN=C(N2C2=C(C1)C=C(C=C2)Cl)[C@@H]2CC[C@H](CC2)OC2=CC=CC=C2)C | C24H28ClN5O3S
